US05869734
A. 1-(4-Aminobutyryl)hexahydropyrmidine
To a solution of 7.5 g of spermidine in water (150 mL) in a 250 mL round bottom flask was added paraformaldehyde (1.6 g). The resulting solution was stirred at room temperature for three hours. TLC (silicon dioxide, ethyl acetate:methanol:ammonium hydroxide=3:6:1) indicated there was no S.M. (Rf-0.01). To the reaction mixture was added toluene (100 mL). The resulting heterogeneous solution was concentrated on a rotovap at 45° C. for 30 minutes. The addition of toluene (100 mL) and concentration at 45° C. was repeated for two more times. The resulting thick oil was washed with tetrahydrofuran:ethanol (10:1)(×3) (220 mL). The combined organic layers were dried with sodium sulfate, filtered and concentrated to give 8.64 g of the title compound as a crude thick oil (yield 103%).

reactant | spermidine | 7.5 g | NCCCCNCCCN | C7H19N3
reactant | paraformaldehyde | 1.6 g | C=O | CH2O
reactant | silicon dioxide | [Si](=O)=O | O2Si
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 150 mL | O | H2O
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-Aminobutyryl)hexahydropyrmidine | 8.64 g | NCCCC(=O)N1CNCCC1 | C8H17N3O
